US07307094B2
A mixture of 6-chloro-2-p-tolylbenzoxazole-4-carboxylic acid (45 mg, 0.16 mmol), 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (43 mg, 0.19 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (60 mg, 0.31 mmol) and 1-hydroxybenzotriazole (43 mg, 0.31 mmol) in DMF (5 mL) was stirred for 10 min at room temperature, then triethylamine (0.07 mL, 0.63 mmol) was added. The resulting reaction mixture was stirred at room temperature for 12 h. The mixture was diluted with ethyl acetate (20 mL), and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with ethyl acetate (2×22 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-chloro-2-p-tolylbenzoxazole-4-carboxamide (18 mg, 26%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 8.94 (d, J=7.3 Hz, 1H), 8.18 (d, J=1.9 Hz, 1H), 8.11 (d, J=8.2 Hz, 2H), 7.67 (d, J=1.9 Hz, 1H), 7.39 (d, J=8.0 Hz, 2H), 4.63-4.50 (m, 1H), 3.12 (d, J=10.4 Hz, 2H), 2.70-2.57 (m, 2H), 2.54 (s, 3H), 2.48 (s, 3H), 2.20-1.90 (m, 2H), 1.65-1.52 (m, 2H), 1.51-1.48 (m, 2H), 1.20-1.10 (m, 2H); MS (ESI+) m/z 424 (M+H); HPLC 95.0% (AUC), tR=13.80 min.

reactant | 6-chloro-2-p-tolylbenzoxazole-4-carboxylic acid | 0.16 mmol, 45 mg | ClC=1C=C2C(N=C(O2)C2=CC=C(C=C2)C)=C(C1)C(=O)O | C15H10ClNO3
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.19 mmol, 43 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.31 mmol, 60 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.31 mmol, 43 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.63 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-chloro-2-p-tolylbenzoxazole-4-carboxamide | 18 mg, 26% | CN1C2CC(CC1CCC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C1=CC=C(C=C1)C)Cl | C24H26ClN3O2
